US05166204
To 10 ml of acetic acid were added 320 mg of cyclohexanone, 500 mg of zinc chloride and 800 mg of 2-chloro-4,5-bis(methoxycarbonyl)phenylhydrazine hydrochloride. The mixture was refluxed for 6 hours. Then, acetic acid was removed by distillation under reduced pressure. The residue was dissolved in 100 ml of ethyl acetate. The solution was washed with 1 N hydrochloric acid, an aqueous saturated sodium chloride solution and an aqueous saturated sodium hydrogen-carbonate solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: toluene/ethyl acetate=1/0 to 40/1) to obtain 270 mg (yield: 31%) of dimethyl 1-chloro-5,6,7,8-tetrahydrocarbazole-3,4-dicarboxylate as colorless crystals.

reactant | cyclohexanone | 320 mg | C1(CCCCC1)=O | C6H10O
reactant | 2-chloro-4,5-bis(methoxycarbonyl)phenylhydrazine hydrochloride | 800 mg | Cl.ClC1=C(C=C(C(=C1)C(=O)OC)C(=O)OC)NN
catalyst | zinc chloride | 500 mg | [Cl-].[Zn+2].[Cl-]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | dimethyl 1-chloro-5,6,7,8-tetrahydrocarbazole-3,4-dicarboxylate | 270 mg, yield: 31% | ClC1=CC(=C(C=2C=3CCCCC3NC12)C(=O)OC)C(=O)OC | C16H16ClNO4
